US06252082B1
Methyl 4-[[4-(1,1-dimethylethyl)phenyl]methyl]-6-methyl-3-nitro-1,2-dihydropyridine-1-acetate
This compound is prepared from 5 g (13.4 mmol) of methyl 6-methyl-3-nitro-2-oxo-4-[[(trifluoromethyl)sulphonyl]oxy]-1,2-dihydropyridine-1-acetate and 4.54 g (20 mmol) of 4-(1,1-dimethylethyl)phenylmethyl bromide according to the method described in 1.5. 3.5 g of product are obtained in the form of yellow crystals.

reactant | methyl 6-methyl-3-nitro-2-oxo-4-[[(trifluoromethyl)sulphonyl]oxy]-1,2-dihydropyridine-1-acetate | 13.4 mmol, 5 g | CC1=CC(=C(C(N1CC(=O)OC)=O)[N+](=O)[O-])OS(=O)(=O)C(F)(F)F | C10H9F3N2O8S
reactant | 4-(1,1-dimethylethyl)phenylmethyl bromide | 20 mmol, 4.54 g | CC(C)(C)C1=CC=C(C=C1)CBr | C11H15Br
product | Methyl 4-[[4-(1,1-dimethylethyl)phenyl]methyl]-6-methyl-3-nitro-1,2-dihydropyridine-1-acetate | 3.5 g, Yield=70% | CC(C)(C)C1=CC=C(C=C1)CC1=C(CN(C(=C1)C)CC(=O)OC)[N+](=O)[O-] | C20H26N2O4
